US08222416B2
A mixture of 4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester (250 mg, 0.69 mmol) and 10% palladium on activated carbon (75 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 16 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo to afford 4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-2-fluoro-benzoic acid methyl ester (240 mg, 95%) as a white solid which was used in the next step without further purification: LC/MS m/e calcd for C22H23FN2O2 [M+H]+ 367.4, observed 367.0.

reactant | 4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester | 0.69 mmol, 250 mg | COC(C1=C(C=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=CC2)N1)F)=O | C22H21FN2O2
catalyst | palladium on activated carbon | 75 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-2-fluoro-benzoic acid methyl ester | 240 mg, 95% | COC(C1=C(C=C(C=C1)C(CC1CCCC1)C1=CC=2C(=NC=CC2)N1)F)=O | C22H23FN2O2
